US09359367B2
Step 1: 3-(4-(4-fluorophenyl)piperazin-1-yl)butyl methanesulfonate
To a stirred solution of 3-(4-(4-fluorophenyl) piperazin-1-yl) butan-1-ol (prepared according to procedure reported in U.S. Pat. No. 5,021,420, 3.5 g, 13.87 mmol) in dichloromethane (30 ml) was added triethylamine (4.2 g, 41.61 mmol) under nitrogen atmosphere. The reaction mixture was cooled to 0-5° C. Methane sulfonyl chloride (1.58 g, 13.87 mmol) was added at 0-5° C. dropwise in 20 mins. The reaction mixture was stirred at same temp for 1 h. Progress of reaction was monitored by TLC. The reaction mixture was diluted with dichloromethane (20 ml) and washed with water (3×20 ml). The organic layer was dried over sodium sulphate and concentrated under reduced pressure to obtain title compound (4.2 g) which was used for the next reaction without further purification.

reactant | 3-(4-(4-fluorophenyl) piperazin-1-yl) butan-1-ol | FC1=CC=C(C=C1)N1CCN(CC1)C(CCO)C | C14H21FN2O
reactant | triethylamine | 41.61 mmol, 4.2 g | C(C)N(CC)CC | C6H15N
reactant | Methane sulfonyl chloride | 13.87 mmol, 1.58 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(4-(4-fluorophenyl)piperazin-1-yl)butyl methanesulfonate | 4.2 g | CS(=O)(=O)OCCC(C)N1CCN(CC1)C1=CC=C(C=C1)F | C15H23FN2O3S
